* C:\Users\seong\Bachelor_Thesis\uz_per_wolfspeed_25kw_FM3\LTSpice\CurrentConditioning\LTspice_CurrentConditioning.asc
V1 N008 0 3.3
R1 N004 N009 49.9 pwr=0.1
C1 N009 0 4.7n V=25
C2 N004 N003 100p V=50V
R2 N004 N003 7.87k pwr=0.1
R3 Test4 Test5 7.15k pwr=0.1
R4 Test3 Test4 1.33k pwr=0.1
V2 Test3 0 3.3
C3 Test5 0 100p V=50 Irms=20.8m Rser=5.448 Lser=0 mfg="KEMET" pn="C0603C101K5RAC" type="X7R"
R5 N005 0 100 pwr=0.75
R6 Test4 0 4.02k pwr=0.1
R7 N005 Test4 2k pwr=0.1
C4 Test4 0 4.7n V=25
V5 N006 0 5
R8 N009 N001 6k8
V6 N011 0 1.7
R10 N013 N012 10k
R11 N002 N001 10k
R9 N011 N012 6k8
I1 0 N005 SINE(0 50m 50)
V3 N007 0 2.5
X§U1 Test5 N003 N008 0 N004 AD8615
X§U2 N001 N012 N013 N002 N007 N006 0 THS4561
R12 N010 N002 50
R13 N014 N013 50
R14 N014 N010 10k
.tran 0.1
* .ac dec 100 10 1M
.lib AD8615.cir
.lib ths4561.lib
.backanno
.end
