* C:\GIT\UltraZohm\pcb_design\uz_per_wolfspeed_25kw_fm3\LTSpice\OvercurrentDetection\OvercurrentDetection.asc
V1 N004 0 3.3
C2 HI_OC_REF 0 0.10µ V=25
C3 LO_OC_REF 0 0.10µ V=25
R8 N003 I_FILT 49.9 pwr=0.1
C4 N003 0 4.7nF V=50
XU1 HI_OC_REF N003 0 N001 0 N002 TLV3501
XU2 N003 LO_OC_REF 0 N001 0 N011 TLV3501
V3 N001 0 3.3
C5 0 N001 0.10µ V=25
R9 U_HI_OC N002 49.9 pwr=0.1
R10 U_LO_OC N011 49.9 pwr=0.1
C6 U_HI_OC 0 56p V=50
C7 U_LO_OC 0 56p V=50
R18 N017 I_FILT 49.9 pwr=0.1
C11 N017 0 4.7nF V=50
XU3 HI_OC_REF N017 0 N015 0 N016 TLV3501
XU4 N017 LO_OC_REF 0 N015 0 N019 TLV3501
V6 N015 0 3.3
C12 0 N015 0.10µ V=25
R19 U_HI_OC N016 49.9 pwr=0.1
R20 U_LO_OC N019 49.9 pwr=0.1
C13 U_HI_OC 0 56p V=50
C14 U_LO_OC 0 56p V=50
R28 N022 I_FILT 49.9 pwr=0.1
C18 N022 0 4.7nF V=50
XU5 HI_OC_REF N022 0 N020 0 N021 TLV3501
XU6 N022 LO_OC_REF 0 N020 0 N024 TLV3501
V9 N020 0 3.3
C19 0 N020 0.10µ V=25
R29 U_HI_OC N021 49.9 pwr=0.1
R30 U_LO_OC N024 49.9 pwr=0.1
C20 U_HI_OC 0 56p V=50
C21 U_LO_OC 0 56p V=50
V10 N007 0 3.3
V11 N008 0 3.3
XU7 N009 U_LO_OC U_HI_OC N007 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU8 N013 U_LO_OC U_HI_OC N007 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU10 NC_01 0 0 N007 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU9 N014 U_LO_OC U_HI_OC N007 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU11 OC_ALL_OK N009 N006 N008 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU12 N006 N014 N013 N008 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU13 NC_02 0 0 N008 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
XU14 GD_EN N010 USER_Gate_Enable N008 0 LOGIC_GATE_2PIN_OD_HC_2i_AND_PP_ST_SN74HCS08
R31 N004 HI_OC_REF 110
R32 HI_OC_REF LO_OC_REF 887
R33 LO_OC_REF 0 110
V2 N018 0 SINE(1.65 {A} {f} 0 0 -120)
V4 N023 0 SINE(1.65 {A} {f} 0 0 -240)
B1 I_FILT 0 V=if(time < 4m, 1.0, 1.65) * sin(2*pi*{f}*time)+1.65
R2 I_FILT N018 2k pwr=0.1
R3 I_FILT N023 2k pwr=0.1
A1 0 0 0 N005 N012 N010 OC_Latched 0 DFLOP Vhigh=3.3 Td=4.5n Trise=3n Tfall=3n
A2 OC_ALL_OK 0 0 0 0 N005 0 0 BUF Vhigh=3.3 Trise=3n Tfall=3n
A3 USER_Gate_Enable 0 0 0 0 N012 0 0 BUF Vhigh=3.3 Trise=3n Tfall=3n
V5 USER_Gate_Enable 0 PULSE(3.3 0 9m 1n 1n 0.5m 1)
.tran 0.01
.param A = 1.0
.param f=100
.lib SN74HCS08.cir
.lib tlv3501.lib
.backanno
.end
